US07189741B2
Preparation of 3-[4-(1-thiophen-3-ylmethyl-1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid
This compound was prepared following the procedure described in example 117 (part C) starting with 0.1 g (0.38 mmol) of 3-piperidin-4-yl-1-thiophen-3-ylmethyl-1H-indole and 0.1 g (0.48 mmol) of 3-bromomethyl-benzoic acid methyl ester. The crude mixture was purified by HPLC-MS using a C-18 column, and 0.005 g (98% of purity) of the expected acid were isolated.

reactant | 3-piperidin-4-yl-1-thiophen-3-ylmethyl-1H-indole | 0.38 mmol, 0.1 g | N1CCC(CC1)C1=CN(C2=CC=CC=C12)CC1=CSC=C1 | C18H20N2S
reactant | 3-bromomethyl-benzoic acid methyl ester | 0.48 mmol, 0.1 g | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
product | 3-[4-(1-thiophen-3-ylmethyl-1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid | S1C=C(C=C1)CN1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1C=C(C(=O)O)C=CC1 | C26H26N2O2S
